US05885999
b) N-Phenyl-1-t-butoxycarbonylpiperidine-4-carboxamide
Triethylamine (10.04 mL, 7.28 g, 72 mmol) was added to stirred, cooled (0° C.) mixture of 1-t-butoxycarbonylpiperidine-4-carboxylic acid (6.87 g, 30 mmol), aniline (2.73 mL, 2.79 g, 30 mmol) and bis(2-oxo-3-oxazolidinyl)phosphinic chloride (9.16 g, 36 mmol) in dichloromethane (50 mL) and the mixture was stirred at room temperature for 18 h. The solvent was evaporated under reduced pressure, water (50 mL) was added and the mixture was extracted with ethyl acetate (4×50 mL). The combined organic fractions were washed with aqueous citric acid (10%, 2×50 mL), aqueous sodium hydrogen carbonate (saturated, 2×50 mL) and brine (50 mL), dried (MgSO4) and the solvent was evaporated under reduced pressure. The residue was purified by flash column chromatography on silica gel, eluting with EtOAc/Hexane (40:60) to give the title compound as a colorless foam (7.23 g, 79%), δH (250 MHz, CDCl3) 7.51 (2H, d, J 7.6 Hz), 7.32 (2H, t, J 7.6 Hz), 7.26 (1H, br s), 7.11 (1H, t, J 7.6 Hz), 4.19 (2H, m), 2.78 (2H, m), 2.38 (1H, m), 1.90 (2H, m), 1.77 (2H, m), and 1.47 (9H, s). m/e (ES+) 305 (MH+).

reactant | Triethylamine | 72 mmol, 10.04 mL, 7.28 g | C(C)N(CC)CC | C6H15N
reactant | 1-t-butoxycarbonylpiperidine-4-carboxylic acid | 30 mmol, 6.87 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)O | C11H19NO4
reactant | aniline | 30 mmol, 2.73 mL, 2.79 g | NC1=CC=CC=C1 | C6H7N
reactant | bis(2-oxo-3-oxazolidinyl)phosphinic chloride | 36 mmol, 9.16 g | O=C1OCCN1P(=O)(N1C(OCC1)=O)Cl | C6H8ClN2O5P
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | N-Phenyl-1-t-butoxycarbonylpiperidine-4-carboxamide | 7.23 g, 79% | C1(=CC=CC=C1)NC(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C17H24N2O3
